US06365590B1
Prazosin alprostadilate was synthesized as follows. Of prazosin hydrochloride (Sigma), (202.2 mg) were dissolved in 300 cc sterile water (Baxter). To the solution was added 481.5 μL of 1 M sodium hydroxide (Fisher). The solution slowly became cloudy as it was chilled for 1 hour on ice. The cloudy solution was transferred to conical tubes in order to hasten precipitation by centrifugation at 1000 g for 5 minutes. Pellets were consolidated and recentrifuged. The pellet was resuspended in 10 cc sterile water, and after centrifugation, the supernatant was discarded and the pellet dried for 2 days in a vacuum desiccator containing phosphorus pentoxide. In 5 cc of a solution of 4:1 acetonitrile and water, 46.5 mg prazosin free base and an equimolar amount of alprostadil, 43 mg, were dissolved by heating to 50° C. for 5 minutes. The volume was reduced by one-half under a stream of nitrogen and acetonitrile was added to increase the volume 50%. This was repeated until water was removed azeotropically and only acetonitrile remained. As the volume of acetonitrile decreased, white crystals appeared. The mother liquor was decanted and discarded. The crystals were dried in a vacuum dessicator containing phosphorus pentoxide.

reactant | prazosin hydrochloride | 202.2 mg | COC=1C=C2C(=CC1OC)N=C(N=C2N)N3CCN(CC3)C(=O)C4=CC=CO4.Cl
reactant | sodium hydroxide | 1 M, 481.5 μL | [OH-].[Na+]
solvent | water | 300 cc | O | H2O
product | Prazosin | COC=1C=C2C(=CC1OC)N=C(N=C2N)N3CCN(CC3)C(=O)C4=CC=CO4 | C19H21N5O4
